US06403639B1
0.33 g of 4-acetoxy-3-t-butyl-5-methylphenol and 0.33 g of hexamethylenetetramine were dissolved in 2 ml of trifluoroacetic acid and the solution was heated under reflux for 15 minutes. After cooling to 0° C., the reaction solution was combined with water, neutralized with a 2N aqueous sodium hydroxide solution, and then extracted with ethyl acetate. The organic layers were washed with a saturated aqueous ammonium chloride solution and saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was dissolved in 5 ml of methanol and heated with 3.9 ml of 1N hydrochloric acid under reflux for one hour. The reaction solution was returned to room temperature and then combined with water, and the precipitated crystal was filtered off. After drying, 0.35 g of 5-acetoxy-4-t-butyl-2-hydroxy-6-methylbenzaldehyde was obtained as a white solid (72%).

reactant | 4-acetoxy-3-t-butyl-5-methylphenol | 0.33 g | C(C)(=O)OC1=C(C=C(C=C1C)O)C(C)(C)C | C13H18O3
reactant | hexamethylenetetramine | 0.33 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-acetoxy-4-t-butyl-2-hydroxy-6-methylbenzaldehyde | 0.35 g | C(C)(=O)OC=1C(=CC(=C(C=O)C1C)O)C(C)(C)C | C14H18O4
